US09301951B2
N-(2-methoxyethyl)-4-(2-(methyl((6-(4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenylcarbamoyl)pyridin-2-yl)methyl)amino)ethyl)piperazine-1-carboxamide
Into a 50-mL round-bottom flask, was placed a solution of 4-nitrophenyl 4-(2-(methyl((6-(4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenylcarbamoyl)pyridin-2-yl)methyl)-amino)ethyl)piperazine-1-carboxylate (100 mg, 0.11 mmol, 1.00 equiv) in N,N-dimethylformamide (5 mL), 2-methoxyethanamine (10 mg, 0.13 mmol, 1.00 equiv), and N,N-diisopropylethylamine (45 mg, 0.35 mmol, 3.00 equiv). The resulting solution was stirred overnight at room temperature. The mixture was concentrated under vacuum. The crude product (0.1 g) was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The product was obtained as 23.2 mg (18%) of a yellow solid. 1H-NMR (300 MHz, DMSO-d6, ppm): δ 12.76 (s, 1H), 9.54-9.52 (m, 1H), 9.05-9.03 (m, 1H), 8.48-8.45 (m, 1H), 8.26 (m, 1H), 8.14-8.12 (m, 2H), 7.88-7.86 (m, 1H), 7.79-7.24 (m, 7H), 6.71 (m, 1H), 4.65-4.63 (d, J=5.7 Hz, 2H), 4.09 (m, 3H), 3.69-3.01 (m, 23H), 1.71-1.59 (m, 6H). MS (ES, m/z): 816 [M+H]+.

reactant | 4-nitrophenyl 4-(2-(methyl((6-(4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenylcarbamoyl)pyridin-2-yl)methyl)-amino)ethyl)piperazine-1-carboxylate | 0.11 mmol, 100 mg, 1.00 equiv | CN(CCN1CCN(CC1)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])CC1=NC(=CC=C1)C(NC1=C(C=C(C=C1)N1CCCCC1)C1=NC=CC(=C1)C(NCC1=CC(=CC=C1)C(F)(F)F)=O)=O | C46H48F3N9O6
reactant | 2-methoxyethanamine | 0.13 mmol, 10 mg, 1.00 equiv | COCCN | C3H9NO
reactant | N,N-diisopropylethylamine | 0.35 mmol, 45 mg, 3.00 equiv | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N-(2-methoxyethyl)-4-(2-(methyl((6-(4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenylcarbamoyl)pyridin-2-yl)methyl)amino)ethyl)piperazine-1-carboxamide | 23.2 mg, 18% | COCCNC(=O)N1CCN(CC1)CCN(CC1=NC(=CC=C1)C(NC1=C(C=C(C=C1)N1CCCCC1)C1=NC=CC(=C1)C(NCC1=CC(=CC=C1)C(F)(F)F)=O)=O)C | C43H52F3N9O4
